US05866576
1-(4-(R)-Methyl-7,8-dihydroxy-8-methylnonyl)-3,7-dimethylxanthine (0.29 g, 0.80 mmol) was stirred with hydrogen bromide (1.00 mL of a 30% solution in acetic acid, 2.40 mmol) for 4 hours. The mixture was then added over 10 minutes to water (10 mL), ice (5 g) and sodium bicarbonate (2 g) and stirred for 30 minutes. The reaction mixture was extracted with dichloromethane (2×15 mL), the combined organic phases dried using magnesium sulfate and the solvent evaporated to obtain a residue of 1-(4-(R)-methyl-7-acetoxy-8-bromo-8-methylnonyl)-3,7-dimethylxanthine.

reactant | 1-(4-(R)-Methyl-7,8-dihydroxy-8-methylnonyl)-3,7-dimethylxanthine | 0.80 mmol, 0.29 g | C[C@H](CCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CCC(C(C)(C)O)O | C18H30N4O4
reactant | hydrogen bromide | Br | BrH
reactant | water | 10 mL | O | H2O
reactant | sodium bicarbonate | 2 g | C([O-])(O)=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(4-(R)-methyl-7-acetoxy-8-bromo-8-methylnonyl)-3,7-dimethylxanthine | C[C@H](CCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CCC(C(C)(C)Br)OC(C)=O | C20H31BrN4O4
